US07452892B2
C. Preparation of 5-chloro-2-(chloromethyl)pyridine
To a stirring solution of (5-chloropyridin-2-yl)methanol (840 mg, 5.8 mmol) in dichloromethane (10 mL) at 0° C. under argon was added thionyl chloride (0.64 mL, 8.77 mmol), followed by 4 drops of DMF (white precipitate formed). The reaction mixture was allowed to stir at room temperature for 1 h. The reaction mixture was concentrated to a white solid. The solid thus obtained was cooled in an ice bath before EtOAc (20 mL) and water (20 mL) and then 10% aqueous Na2CO3 solution (20 mL) were added. The organic layer was separated, washed with saturated aqueous NaCl, dried (MgSO4), filtered and concentrated to obtain 840 mg of the title compound as a light brown gum. HPLC/MS: retention time=2.392 min, [M+H]+=162.

reactant | (5-chloropyridin-2-yl)methanol | 5.8 mmol, 840 mg | ClC=1C=CC(=NC1)CO | C6H6ClNO
reactant | thionyl chloride | 8.77 mmol, 0.64 mL | S(=O)(Cl)Cl | Cl2OS
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
reactant | Na2CO3 | 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 5-chloro-2-(chloromethyl)pyridine | 840 mg | ClC=1C=CC(=NC1)CCl | C6H5Cl2N
